US07723333B2
Tert-Butyl{1-[3-chloro-5-(trifluoromethyl)pyridine-2-yl]piperidin-4-yl}carbamate
A mixture of 2,3-dichloro-5-(trifluoromethyl)pyridine (2.0 g, 9.26 mmol), tert-butyl piperidine-4-ylcarbamate (2.2 g, 111.1 mmol) and anhydrous potassium carbamate (3.8 g, 27.78 mmol) in DMF (15 ml) was heated in a microwave reactor at 150° C. for 10 min. The mixture was concentrated, water and EtOAc were added to the residue and the aqueous phase was extracted with EtOAc. The combined organic phases were dried over Na2SO4 and concentrated. The crude product was purified by flash column chromatography (hexane/EtOAc 90:10) to yield the title compound (2.5 g, 70%). 1H NMR (500 MHz, CDCl3): δ 1.47 s, 9H), 1.53-1.60 (m, 2H), 2.07-2.09 (m, 2H), 3.01-3.06 (m, 2H), 3.72 (br.s., 1H), 3.97-4.00 (m, 2H, 4.54 (br.s., 1H), 7.75 (s, 1H), 8.38 (s, 1H); Mass Spectrum: M+H+ 380.

reactant | 2,3-dichloro-5-(trifluoromethyl)pyridine | 9.26 mmol, 2.0 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | tert-butyl piperidine-4-ylcarbamate | 111.1 mmol, 2.2 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | potassium carbamate | 27.78 mmol, 3.8 g | C(N)([O-])=O.[K+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | Tert-Butyl{1-[3-chloro-5-(trifluoromethyl)pyridine-2-yl]piperidin-4-yl}carbamate | 2.5 g, 70% | C(C)(C)(C)OC(NC1CCN(CC1)C1=NC=C(C=C1Cl)C(F)(F)F)=O | C16H21ClF3N3O2
